US07250535B2
In a 300 ml four-necked flask thoroughly purged with nitrogen, 10.4 g (0.05 mol) of di-tert-amylphosphinous chloride, 0.10 g (0.001 mol (corresponding to 2% by mol)) of copper(I) chloride and 30 ml of tetrahydrofuran were placed. To the contents of the flask, a Grignard reagent solution previously prepared from 8.3 g (0.060 mol) of cyclohexyl chloride and 2.0 g (0.08 mol) of metallic magnesium in 50 ml of tetrahydrofuran was dropwise added over a period of 1 hour with maintaining the temperature at 25° C. to 30° C. After the dropwise addition was completed, stirring was conducted at a temperature of 35° C. to 40° C. for 6 hours. After the temperature of the reaction solution was returned to room temperature, 20 ml of toluene and 20 ml of a 5% sulfuric acid aqueous solution were added to the reaction solution to perform liquid separation. Then, the organic layer was washed with water and dried over anhydrous sodium sulfate. The solvent and a low-boiling component were distilled off under reduced pressure to obtain 12.4 g (purity: 94.9%) of the aimed di-tert-amylcyclohexylphosphine as an oily substance. The yield was 90.2%.

reactant | di-tert-amylphosphinous chloride | 0.05 mol, 10.4 g | C(C)(C)(CC)P(C(C)(C)CC)Cl | C10H22ClP
reactant | cyclohexyl chloride | 0.060 mol, 8.3 g | C1(CCCCC1)Cl | C6H11Cl
reactant | magnesium | 0.08 mol, 2.0 g | [Mg] | Mg
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
catalyst | copper(I) chloride | 0.001 mol, 0.10 g | [Cu]Cl
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | di-tert-amylcyclohexylphosphine | 12.4 g, yield was 90.2% | C(C)(C)(CC)P(C1CCCCC1)C(C)(C)CC | C16H33P
